US05179121
25.5 g of ethyl 2,2,4-trichloro-4,4-difluorobutyrate are dissolved in 200 ml of absolute ethanol. 16.4 g of anhydrous sodium acetate and 2.0 g of 5% platinum/carbon catalyst are added and then gaseous hydrogen is passed in under atmospheric pressure until the hydrogen uptake is 2 equivalents. The catalyst is removed by filtration and the ethanol is removed by distillation and then the remaining oil is poured onto water, and the organic phase is separated off, dried with sodium sulfate, filtered and distilled under atmospheric pressure. 14.0 g of ethyl 4-chloro-4,4-difluorobutyrate are obtained in the form of a colourless oil of boiling point 154°-156° C.

reactant | ethyl 2,2,4-trichloro-4,4-difluorobutyrate | 25.5 g | ClC(C(=O)OCC)(CC(F)(F)Cl)Cl | C6H7Cl3F2O2
reactant | sodium acetate | 16.4 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | platinum/carbon | 2.0 g | [Pt] | Pt
product | ethyl 4-chloro-4,4-difluorobutyrate | 14.0 g | ClC(CCC(=O)OCC)(F)F | C6H9ClF2O2
